US06610701B2
To a solution of 2-Tetrazol-1-yl-benzamide (1.5 g, 7.9 mmol) in tetrahydrofuran (50 ml) was added (methoxycarbonylsulfamoyl)ammonium hydroxide, inner salt (2.8 g, 11.8 mmol) in three portions over 1.5 h. Water was added and the reaction mixture was extracted with ethyl acetate. The combined organic layers were washed with brine. Drying and solvent evaporation gave 2-Tetrazol-1-yl-benzonitrile; 1H NMR (CDCl3, 400 MHz) δ9.27 (s, 1H), 7.90 (m, 3H), 7.72 (m, 1H).

reactant | 2-Tetrazol-1-yl-benzamide | 7.9 mmol, 1.5 g | N1(N=NN=C1)C1=C(C(=O)N)C=CC=C1 | C8H7N5O
reactant | (methoxycarbonylsulfamoyl)ammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[NH3+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Tetrazol-1-yl-benzonitrile | N1(N=NN=C1)C1=C(C#N)C=CC=C1 | C8H5N5
